US06727256B1
(4-Benzenesulphonyl)phenyl-(6-iodo-7-fluoro-quinazolin-4-yl)-amine hydrochloride
Prepared according to Procedure A from 4-(benzenesulphonyl)phenylamine and 4-chloro-6-iodo-7-fluoroquinazoline. 1H NMR (400 MHz, DMSOd6) δ: 10.89(s, 1H), 9.3(d, 1H), 8.79(s, 1H), 8.07(d, 2H), 8.0(d, 2H), 7.94(d, 2H), 7.67(m, 2H), 7.61(m, 2H). ESI-MS m/z 504(M−1).

reactant | 4-(benzenesulphonyl)phenylamine | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)N | C12H11NO2S
reactant | 4-chloro-6-iodo-7-fluoroquinazoline | ClC1=NC=NC2=CC(=C(C=C12)I)F | C8H3ClFIN2
product | (4-Benzenesulphonyl)phenyl-(6-iodo-7-fluoro-quinazolin-4-yl)-amine hydrochloride | Cl.C1=CC=C(C=C1)S(=O)(=O)N(C1=NC=NC2=CC(=C(C=C12)I)F)C1=CC=CC=C1 | InChI=1S/C20H13FIN3O2S.ClH/c21-17-12-19-16(11-18(17)22)20(24-13-23-19)25(14-7-3-1-4-8-14)28(26,27)15-9-5-2-6-10-15;/h1-13H;1H
